US07307172B2
Preparation of 7-hydroxy-6-propyl-5-trifluoromethyl-[1,2,4]-triazolo[1,5-α]-pyrimidine
A mixture of 14 g (0.17 mol) 3-amino-1,2,4-triazole, 38.4 g (0.17 mol) of 3-oxo-2-propyl-4,4,4-trifluorobutanoate and 50 ml of tributylamine were stirred at 180° C. for 6 h. Work-up was carried out analogously to Ex. 1. Drying gave 33 g (0.13 mol) of the title compound.

reactant | 3-amino-1,2,4-triazole | 0.17 mol, 14 g | NC1=NNC=N1 | C2H4N4
reactant | 3-oxo-2-propyl-4,4,4-trifluorobutanoate | 0.17 mol, 38.4 g | O=C(C(C(=O)[O-])CCC)C(F)(F)F
solvent | tributylamine | 50 ml | C(CCC)N(CCCC)CCCC | C12H27N
product | 7-hydroxy-6-propyl-5-trifluoromethyl-[1,2,4]-triazolo[1,5-α]-pyrimidine | 0.13 mol, 33 g | OC1=C(C(=NC=2N1N=CN2)C(F)(F)F)CCC | C9H9F3N4O
